US04767768
To a solution of 4-ethyl-2-hydroxyimino-5-nitro-3-hexenal (100 mg) in dry ethanol (10 ml) was added sodium borohydride (15 mg) at 0° C. with stirring. The resulting mixture was stirred at the same temperature for 10 minutes and 1N hydrochloric acid was added thereto. The reaction mixture was extracted with ethyl acetate and the extract was washed with successively with water, an aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate, and then evaporated to dryness in vacuo to give an oil. The oil was purified by a preparative thin layer chromatography [solvent: methanol-chloroform (10:90) to give 4-ethyl-2-hydroxyimino-5-nitro-3-hexen-1-ol (80 mg).

reactant | 4-ethyl-2-hydroxyimino-5-nitro-3-hexenal | 100 mg | C(C)C(=CC(C=O)=NO)C(C)[N+](=O)[O-] | C8H12N2O4
reactant | sodium borohydride | 15 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-ethyl-2-hydroxyimino-5-nitro-3-hexen-1-ol | 80 mg | C(C)C(=CC(CO)=NO)C(C)[N+](=O)[O-] | C8H14N2O4
